US05459137
1-(4-Pivaloylaminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine
1.56 ml (11.2 mmol) of triethylamine and 1.38 ml (11.2 mmol) of pivaloyl chloride were added to a solution of 3 g (10.2 mmol) of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine in 160 ml of dichloromethane and the reaction mixture was stirred at 25° C. for one hour. The precipitate formed was filtered, washed with 3×5 ml of dichloromethane, then with 3×20 ml of water and dried to yield 1.59 g of pure product, m.p. 225°-227° C. (decomp.). The other portion of the product was isolated from the organic phase. The filtrate was extracted with 3×20 ml of water, then with 3×15 ml of 4% aqueous sodium hydroxide solution, finally with 2×30 ml of water. The organic layer was subsequently dried and evaporated under reduced pressure. The crystalline residue was combined with the former product of 1.59 g and suspended in 20 ml of hot ethanol. The product was filtered after cooling, washed with 3×3 ml of ethanol and dried to yield 3.38 g (87.8%) of the pure product, m.p.: 225°-227° C. (decomp.).

reactant | triethylamine | 11.2 mmol, 1.56 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 11.2 mmol, 1.38 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 10.2 mmol, 3 g | NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C17H15N3O2
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | 1-(4-Pivaloylaminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 1.59 g | C(C(C)(C)C)(=O)NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C22H23N3O3
